US07700595B2
Methyl 2-[4-({[3-(8-chloro-3-phenylcinnolin-4-yl)phenyl]amino}methyl)phenyl]-2-methylpropanoate
The title compound was prepared from 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine and 2-(4-formyl-phenyl)-2-methyl-propionic acid methyl ester according to the procedure of Step 5 Example 6. MS (ES) m/z 522.2.

reactant | 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)N | C20H14ClN3
reactant | 2-(4-formyl-phenyl)-2-methyl-propionic acid methyl ester | COC(C(C)(C)C1=CC=C(C=C1)C=O)=O | C12H14O3
product | Methyl 2-[4-({[3-(8-chloro-3-phenylcinnolin-4-yl)phenyl]amino}methyl)phenyl]-2-methylpropanoate | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)NCC1=CC=C(C=C1)C(C(=O)OC)(C)C | C32H28ClN3O2
